US06509354B1
To 3.0 g (11.3 mmol) of 2-fluoro-4-(4-trifluoromethylphenyl)benzonitrile in 50 ml of N,N-dimethylformamide, 7.0 g (15.0 mmol) of 15% aqueous sodium methyl mercaptan was added dropwise at room temperature. After 6 hours of stirring at 60° C., the reaction mixture was poured into 200 ml of ice-cold water and extracted with 100 ml of ethyl acetate twice. The ethyl acetate layer was washed with 100 ml of water twice and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 2.5 g of 2-methylthio-4-(4-trifluoromethylphenyl)benzonitrile (yield 75%) as white crystals (m.p. 128-129° C.).

reactant | 2-fluoro-4-(4-trifluoromethylphenyl)benzonitrile | 11.3 mmol, 3.0 g | FC1=C(C#N)C=CC(=C1)C1=CC=C(C=C1)C(F)(F)F | C14H7F4N
reactant | sodium methyl mercaptan | 15.0 mmol, 7.0 g | CS.[Na]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-methylthio-4-(4-trifluoromethylphenyl)benzonitrile | 2.5 g, yield 75% | CSC1=C(C#N)C=CC(=C1)C1=CC=C(C=C1)C(F)(F)F | C15H10F3NS
